US06313137B1
Synthesis of 2-methyl-8-(2-ethyl-6-methylbenzylamino)-imidazo[1,2-a]pyridine-6-carboxamide
8-Amino-2-methylimidazo[1,2-a]pyridine-6-carboxamide (3.8 g, 20 mmol), 2-ethyl-6-methylbenzylchloride (2.8 g, 17 mmol), potassium carbonate (5.5 g, 40 mmol) and sodium iodide (0.1 g, 0.6 mmol) were added to dimethylformamide (75 ml) and the mixture was stirred at 50° C. for 4 h. and at room temperature for 48 h. The reaction mixture was filtred through silica gel and the gel was washed with methylene chloride. The solvents were evaporated under reduced pressure and the residue was purified by column chromatography on silica gel using methylene chloride:methanol (9:1) as eluent. Crystallization from a mixture of methylene chloride and hexane gave 0.13 g (2%) of the title compound.

reactant | 8-Amino-2-methylimidazo[1,2-a]pyridine-6-carboxamide | 20 mmol, 3.8 g | NC=1C=2N(C=C(C1)C(=O)N)C=C(N2)C | C9H10N4O
reactant | 2-ethyl-6-methylbenzylchloride | 17 mmol, 2.8 g | C(C)C1=C(CCl)C(=CC=C1)C | C10H13Cl
reactant | potassium carbonate | 40 mmol, 5.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.6 mmol, 0.1 g | [I-].[Na+]
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 2-methyl-8-(2-ethyl-6-methylbenzylamino)-imidazo[1,2-a]pyridine-6-carboxamide | 0.13 g, 2% | CC=1N=C2N(C=C(C=C2NCC2=C(C=CC=C2C)CC)C(=O)N)C1 | C19H22N4O
